US07932271B2
5-Fluoropyridine-2-carbonitrile
To hydrogen fluoride-pyridine (100 ml) was added 5-amino-2-cyanopyridine (24.5 g, 0.206 mol) under ice cooling. The resulting mixture was stirred for 10 minutes. To the reaction mixture was added sodium nitrite (15.6 g, 0.226 mol). The resulting mixture was stirred at room temperature for 10 minutes, and then stirred at 50° C. for 2 hours. To the reaction mixture was added a 20% aqueous solution of sodium hydroxide. The resulting mixture was extracted with diethyl ether. The organic layer thus obtained was dried over sodium sulfate, and concentrated under reduced pressure. The residue thus obtained was subjected to silica gel column chromatography. The fraction obtained from the hexane:ethyl acetate=3:1 eluate was concentrated under reduced pressure to give the title compound (16.0 g, 0.131 mmol, 64%) as colorless needle crystals.

reactant | hydrogen fluoride-pyridine | 100 ml | N1=CC=CC=C1.F
reactant | 5-amino-2-cyanopyridine | 0.206 mol, 24.5 g | NC=1C=CC(=NC1)C#N | C6H5N3
reactant | sodium nitrite | 0.226 mol, 15.6 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hexane | CCCCCC | C6H14
product | 5-Fluoropyridine-2-carbonitrile | 0.131 mmol, 16.0 g, 64% | FC=1C=CC(=NC1)C#N | C6H3FN2
